US05441969
3-acetamido-4-bromo-2-methylpyrazole (92°-94° C.) was prepared by acetylation of 3-amino-4-bromo-2-methylpyrazole in acetic anhydride.

reactant | 3-amino-4-bromo-2-methylpyrazole | NC=1N(N=CC1Br)C | C4H6BrN3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetamido-4-bromo-2-methylpyrazole | C(C)(=O)NC=1N(N=CC1Br)C | C6H8BrN3O
